US08492378B2
1H-indazole-5-carbohydrazide
A solution of methyl 1H-indazole-5-carboxylate (5.02 g, 28.5 mmol) and hydrazine monohydrate (6.94 mL, 143 mmol) in methanol (50 mL) was heated under reflux for 48 hr. After cooling, the precipitate was collected by filtration, and washed with methanol to give the title compound (4.69 g, yield 93%) as colorless crystals.

reactant | methyl 1H-indazole-5-carboxylate | 28.5 mmol, 5.02 g | N1N=CC2=CC(=CC=C12)C(=O)OC | C9H8N2O2
reactant | hydrazine monohydrate | 143 mmol, 6.94 mL | O.NN
solvent | methanol | 50 mL | CO | CH4O
product | 1H-indazole-5-carbohydrazide | 4.69 g, yield 93% | N1N=CC2=CC(=CC=C12)C(=O)NN | C8H8N4O
